US06281227B1
D. N-[1-(4-Acetylamino-3-nitrobenzyl)-2-oxopyrrolidin-3-(S)-yl]-2,2,2-trifluoroacetamide
To a solution of 2,2,2-trifluoro-N-[1-(4-nitrobenzyl)-2-oxopyrrolidin-3-(S)-yl]-acetamide (0.75 g, 2.27 mmol) in AcOH (12 mL) is added acetic anhydride (1 mL) and a catalytic amount of 10% palladium on activated carbon. The heterogenous mixture is hydrogenated at room temperature on a Parr apparatus under 70 p.s.i. of H2. After 4.5 h, the reaction mixture is filtered through a pad of Celite, washed with CH2Cl2 and then MeOH. The crude product is concentrated in vacuo to yield 1.2 g of crude N-[1-(4-acetylamino-benzyl)-2-oxopyrrolidin-3-(S)-yl]-2,2,2-trifluoroacetamide as a residue (wet with HOAc). A solution of the crude N-[1-(4-acetylamino-benzyl)-2-oxopyrrolidin-3-(S)-yl]-2,2,2-trifluoroacetamide (1.2 g, wet with AcOH) in AcOH (12 mL) is cooled at 0° C. and acetic anhydride (1 mL) is added. The resulting mixture is treated with a catalytic amount of NaNO2, followed by the dropwise addition of fuming HNO3(3.8 mL). The reaction mixture is stirred at 0° C. for 1.5 hours, then at room temperature for 1.5 hours. Upon re-cooling to 0° C., a mixture of ice/ice water is added slowly with stirring. The mixture is diluted further with water and extracted with EtOAc (3×50 mL). The combined organic layers are washed twice with water. The organic phase is dried over anhydrous MgSO4, filtered and concentrated. The crude product is purified by column chromatography eluting with a gradient of 25% EtOAc/CH2Cl2 to 50% EtOAc/CH2Cl2 to provide the title compound (0.65 g, 1.67 mmol) as a beige solid.

reactant | N-[1-(4-acetylamino-benzyl)-2-oxopyrrolidin-3-(S)-yl]-2,2,2-trifluoroacetamide | 1.2 g | C(C)(=O)NC1=CC=C(CN2C([C@H](CC2)NC(C(F)(F)F)=O)=O)C=C1 | C15H16F3N3O3
reactant | acetic anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | HNO3 | 3.8 mL | [N+](=O)(O)[O-] | HNO3
solvent | AcOH | 12 mL | CC(=O)O | C2H4O2
solvent | water | O | H2O
product | N-[1-(4-Acetylamino-3-nitrobenzyl)-2-oxopyrrolidin-3-(S)-yl]-2,2,2-trifluoroacetamide | 1.67 mmol, 0.65 g | C(C)(=O)NC1=C(C=C(CN2C([C@H](CC2)NC(C(F)(F)F)=O)=O)C=C1)[N+](=O)[O-] | C15H15F3N4O5
